US05459152
To a suspension of 6-(4-methoxyphenyl)-1-tert-butoxycarbonylindole (3.9 g, 12 mmol) in methanol (50 mL) was added 1N methanolic NaOH (60 mL) and CH2Cl2 (20 mL). The reaction was stirred for one hour at ambient temperature and 1.5 hours at reflux. The reaction mixture was cooled to ambient temperature and H2O (50 mL) was added to dissolve all solids. The two-phase mixture was poured into CHCl3 and the layers where separated. The organic phase was washed with brine, dired over MgSO4, filtered, and concentrated in vacuo. Flash chromatography on silica gel (100 g, 25% ethyl acetate, hexanes) afforded 6-(4-methoxyphenyl)indole as white flakes (2.2 g, 81%).

reactant | 6-(4-methoxyphenyl)-1-tert-butoxycarbonylindole | 12 mmol, 3.9 g | COC1=CC=C(C=C1)C1=CC=C2C=CN(C2=C1)C(=O)OC(C)(C)C | C20H21NO3
reactant | NaOH | 1N, 60 mL | [OH-].[Na+]
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
reactant | H2O | 50 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 6-(4-methoxyphenyl)indole | COC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C15H13NO
